US03957816
To a mixture of 25 grams of 2-(4-pyridylmethylene)-3,4-dihydro-4-methyl-1 (2H)-naphthalenone and 5 grams of hydrazine in 150 ml of ethanol is added sufficient chlorform to dissolve all the reactants. The solution is refluxed overnight under anhydrous conditions. After cooling, the reaction mixture is filtered and the solvent removed by evaporation to yield 5-methyl-3-(4-pyridyl)-3,3a,4,5-tetrahydro-2H-naphtho[1,2-c]Pyrazole. This is chromatographed on silica using benzene as the eluant to yield 4,5-dihydro-5-methyl-3l -(4-pyridyl)-2H-naphtho[1,2c]pyrazole.

reactant | 2-(4-pyridylmethylene)-3,4-dihydro-4-methyl-1 (2H)-naphthalenone | 25 grams | N1=CC=C(C=C1)C=C1C(C2=CC=CC=C2C(C1)C)=O | C17H15NO
reactant | hydrazine | 5 grams | NN | H4N2
reactant | chlorform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-methyl-3-(4-pyridyl)-3,3a,4,5-tetrahydro-2H-naphtho[1,2-c]Pyrazole | CC1CC2C(=NNC2C2=CC=NC=C2)C2=CC=CC=C12 | C17H17N3
